.SUBCKT AOA211X2H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMM5 net6 B0 net10 VDD pm1p2_svt_lp W=190n L=60n m=1
MMM1 net10 A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMM2 net10 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMM0 net6 C0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMM14 Y net6 VDD VDD pm1p2_svt_lp W=380n L=60n m=1
MMM4 net26 B0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM6 net26 A0 net38 VSS nm1p2_svt_lp W=150n L=60n m=1
MMM7 net6 C0 net26 VSS nm1p2_svt_lp W=150n L=60n m=1
MMM3 net38 A1 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMM13 Y net6 VSS VSS nm1p2_svt_lp W=300n L=60n m=1
.ENDS
